US06844345B2
c) 6-Chloro-3-methylindole-1H-indole-2 carboxylic acid ethyl ester
A solution of sodium nitrite (5.95 g, 86.2 mmol) in water (7 mL) was added dropwise at −5° C. to a mixture of 3-chloroaniline (10.0 g, 78.4 mmol) in water (27 mL) and 37% aq. hydrochloric acid solution (16 mL), then after 15 min sodium acetate (5.47 g, 66.6 mmol) was added. In a separate flask a solution of ethyl α-ethylacetoacetate (13.6 g, 86.2 mmol) in ethanol (50 mL) was treated with with a solution of 85% potassium hydroxide (5.69 g, 86.2 mmol) in water (6 mL) at 0° C., then ice (80 g) and the above prepared aryldiazonium solution were rapidly added. The two-phase mixture obtained was stirred 3 h at 0° C., and kept at 4° C. overnight, then extracted with ethyl acetate (2×200 mL). The organic layer was washed with brine, dried (MgSO4), and evaporated. The resultant red oil was added within 30 min to a boiling mixture of ethanol (100 mL) and acetyl chloride (25 mL). After 2 h at reflux, the mixture was cooled to room temperature then filtered. The filtrate was evaporated then partitioned between water and chloroform. The organic layer was washed with sat. aq. sodium hydrogen carbonate solution and brine, dried (MgSO4), and evaporated. The solid was successively triturated in dichloromethane/hexane 1:1 (100 mL) and ether (50 mL, twice) to afford the title compound (4.06 g, 22%). White solid, EI-MS: m/e=237.1 (M+).

reactant | sodium nitrite | 86.2 mmol, 5.95 g | N(=O)[O-].[Na+]
reactant | 3-chloroaniline | 78.4 mmol, 10.0 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | sodium acetate | 66.6 mmol, 5.47 g | C(C)(=O)[O-].[Na+]
reactant | ethyl α-ethylacetoacetate | 86.2 mmol, 13.6 g | C(C)C(C(=O)OCC)C(=O)C | C8H14O3
reactant | potassium hydroxide | 86.2 mmol, 5.69 g | [OH-].[K+]
solvent | water | 7 mL | O | H2O
solvent | water | 27 mL | O | H2O
solvent | hydrochloric acid | 16 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 6 mL | O | H2O
product | 6-Chloro-3-methylindole 1H-indole-2 carboxylic acid ethyl ester | 4.06 g, 22% | ClC1=CC=C2C(=CNC2=C1)C.C(C)OC(=O)C=1NC2=CC=CC=C2C1 | InChI=1S/C11H11NO2.C9H8ClN/c1-2-14-11(13)10-7-8-5-3-4-6-9(8)12-10;1-6-5-11-9-4-7(10)2-3-8(6)9/h3-7,12H,2H2,1H3;2-5,11H,1H3
